US07459562B2
C) tert-Butyl 6-ethynylpyridin-3-ylcarbamate
A solution of tert-butyl 6-(2-(trimethylsilyl)ethynyl)pyridin-3-ylcarbamate (62 mg, 0.21 mmol) in THF (5 mL) was cooled to −15° C. and treated with 1.0 M tetrabutylammonium fluoride (Aldrich, 0.25 mL, 0.25 mmol) and stirred for 40 min. The mixture was concentrated in vacuo and partitioned between EtOAc and saturated aqueous NaHCO3 solution. The EtOAc phase was washed with brine, dried (MgSO4) and concentrated in vacuo to give the title compound (45 mg, 100%) as an off-white solid. 1H NMR (DMSO-d6) δ 9.78 (s, 1H), 8.58 (d, 1H, J=2.5 Hz), 7.92-7.84 (m, 1H), 7.46 (d, 1H, J=8.6 Hz), 4.17 (s, 1H), 1.47 (s, 9H); MS(ESI+): m/z 219.20 (M+H)+.

reactant | tert-butyl 6-(2-(trimethylsilyl)ethynyl)pyridin-3-ylcarbamate | 0.21 mmol, 62 mg | C[Si](C#CC1=CC=C(C=N1)NC(OC(C)(C)C)=O)(C)C | C15H22N2O2Si
reactant | tetrabutylammonium fluoride | 0.25 mmol, 1.0 M, 0.25 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | tert-Butyl 6-ethynylpyridin-3-ylcarbamate | 45 mg, 100% | C(#C)C1=CC=C(C=N1)NC(OC(C)(C)C)=O | C12H14N2O2
